US05376681
5-Amino-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydrobenzofuran
2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-5-nitro-2,3-dihydrobenzofuran (1.26 g, 3.9 mmol) was dissolved in methanol (30 ml). Zinc powder (1.3 g) and 1N sodium hydroxide (15 ml) were added to the solution and the mixture was heated under reflux for 3 hours. Insoluble materials were filtered off and water was added. The mixture was extracted with ethyl acetate. The extract was washed with water, dried and then the solvent was distilled off. The residue was purified by column chromatography on silica gel (hexane-isopropyl ether, 95:5) and crystallized from hexane to obtain the desired compound (710 mg, yield: 53.7%), m.p. 119°-120° C.

reactant | 2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-5-nitro-2,3-dihydrobenzofuran | 3.9 mmol, 1.26 g | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)[N+](=O)[O-])C)C | C20H23NO3
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
catalyst | Zinc | 1.3 g | [Zn] | Zn
product | 5-Amino-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydrobenzofuran | 710 mg, yield: 53.7% | NC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C20H25NO
